US05674886
EXAMPLE 60 4-[N-[(2-bromothiazol-5-yl)methyl]-N-(4-nitrophenyl)amino]-4H-1,2,4-triazol
Starting Compounds: 4-(4-nitrophenyl)amino-4H-1,2,4-triazole and 2-bromo-5-(bromomethyl)thiazole

reactant | 4-(4-nitrophenyl)amino-4H-1,2,4-triazole | [N+](=O)([O-])C1=CC=C(C=C1)NN1C=NN=C1 | C8H7N5O2
reactant | 2-bromo-5-(bromomethyl)thiazole | BrC=1SC(=CN1)CBr | C4H3Br2NS
product | 4-[N-[(2-bromothiazol-5-yl)methyl]-N-(4-nitrophenyl)amino]-4H-1,2,4-triazol | BrC=1SC(=CN1)CN(C1=CC=C(C=C1)[N+](=O)[O-])N1C=NN=C1 | C12H9BrN6O2S
